US07741352B2
1-Bromo-2-methoxy-nonyl benzene
A solution of 1-methoxy-3-nonyl benzene (7.5 g; 32 mmol) in DMF (60 mL) was cooled to −10° C. and N-bromosuccinimide (5.42 g; 30 mmol) was added under stirring over 30 minutes. The MeOH/ice bath was removed after 1 hour and the reaction mixture was left overnight with stirring. The reaction mixture was poured onto H2O (100 mL) and 10 M NaOH (aq) was added. The alkaline slurry was extracted with EtOAc (2×) and the combined organic fractions washed with 1 M NaOH (aq.; 2×), dried (MgSO4), filtered and evaporated to dryness. The crude product was further purified by column chromatography (SiO2; EtOAc/PE80-100° C.=0:1→1:20) to yield 9.8 g (quantitative) of product with satisfactory purity.

reactant | 1-methoxy-3-nonyl benzene | 32 mmol, 7.5 g | COC1=CC(=CC=C1)CCCCCCCCC | C16H26O
reactant | N-bromosuccinimide | 30 mmol, 5.42 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 1-Bromo-2-methoxy-nonyl benzene | BrC(C(CCCCCCC)OC)C1=CC=CC=C1 | C16H25BrO
